US05210092
To a solution of 1-(4-methylphenyl)pyrrole-2-carbonitrile (1.274 g) in tetrahydrofuran (25 ml) was added N-bromosuccinimide (1.776 g) in several portions at ambient temperature. After being stirred for 3 hours at the same temperature, the mixture was concentrated in vacuo. The residue was treated with diethyl ether. The precipitates were removed by filtration and washed with a small amounts of diethyl ether. The filtrates were concentrated in vacuo to give an oily residue, which was purified by silica gel column chromatography (elution by 40% dichloromethane in n-hexane) to yield 4-bromo-1-(4-methylphenyl)pyrrole-2-carbonitrile (1.78 g) as a solid.

reactant | 1-(4-methylphenyl)pyrrole-2-carbonitrile | 1.274 g | CC1=CC=C(C=C1)N1C(=CC=C1)C#N | C12H10N2
reactant | N-bromosuccinimide | 1.776 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
product | 4-bromo-1-(4-methylphenyl)pyrrole-2-carbonitrile | 1.78 g | BrC=1C=C(N(C1)C1=CC=C(C=C1)C)C#N | C12H9BrN2
